US05521179
Using a similar procedure to that of Example 1.d., above, 3-benzyloxycarbonylamino-6-phenethylpyrid-2-one (1.64 g) was suspended in dry dimethylformamide (20 mL) and to this suspension was added NaH (0.22 g of a 60% mineral oil dispersion). The mixture was stirred for 1.5 h, at which point all solids were in solution. tert-Butyl bromoacetate (0.92 g) was added, and the mixture was stirred overnight. The mixture was diluted with water (100 mL) and extracted with ethyl acetate (four times). The extracts were washed with brine, dried and evaporated. The residue was purified by chromatography, eluting with methanol:dichloromethane (0:100 then 3:97), to give tert-butyl (3-benzyloxycarbonylamino-2-oxo-6-phenethyl-1,2-dihydro-1-pyridyl)acetate (0.578 g); TLC: Rf =0.17, dichloromethane; MS: m/z=463(M+1).

reactant | 3-benzyloxycarbonylamino-6-phenethylpyrid-2-one | 1.64 g | C(C1=CC=CC=C1)OC(=O)NC=1C(NC(=CC1)CCC1=CC=CC=C1)=O | C21H20N2O3
reactant | NaH | [H-].[Na+]
reactant | tert-Butyl bromoacetate | 0.92 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | tert-butyl (3-benzyloxycarbonylamino-2-oxo-6-phenethyl-1,2-dihydro-1-pyridyl)acetate | 0.578 g | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)CCC1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C27H30N2O5
